US09216992B2
(E)-3-(4-Bromo-thiophen-2-yl)-acrylic acid
4-Bromothiophenecarboxaldehyde (2.5 g, 13.1 mmol) was placed in a 25 ml round bottomed flask and charged with piperidine (0.14 ml, 0.11 mmol) and pyridine (7.1 ml). Malonic acid was then added (2.21 mg, 21.2 mmol) and the reaction heated to 100° C. and maintained for 24 h. The reaction was then allowed to cool to room temperature and the solvent removed in vacuo. The remaining residue was acidified with concentrated HCl to pH 3 and the solid collected, filtered and washed with distilled water (20 ml). It was then air and oven dried to yield a yellow solid (3.04 g, 100%).

reactant | 4-Bromothiophenecarboxaldehyde | 13.1 mmol, 2.5 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | piperidine | 0.11 mmol, 0.14 ml | N1CCCCC1 | C5H11N
reactant | Malonic acid | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 7.1 ml | N1=CC=CC=C1 | C5H5N
product | (E)-3-(4-Bromo-thiophen-2-yl)-acrylic acid | 3.04 g, 100% | BrC=1C=C(SC1)/C=C/C(=O)O | C7H5BrO2S
